### PR TITLE
working step_12

### PR DESCRIPTION
**Pull request by mattcushman**
Add `lemma step_12a` which clears up two `sorry`'s and completes the proof of `step_12`

### CODE REVIEW

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 1]
```diff
@@ -344,6 +344,72 @@ private lemma step_11 :
     simp only [neg_mul]
     gcongr
 
+-- Summability on N implies summability on N+
+private lemma natplus_summable_of_nat_summable {a : ℕ → ℝ} (h : Summable a)
+  : Summable (fun (n : ℕ+) => a n) := by
+  have : Summable ((fun i : ℕ+ => a i) ∘ Equiv.pnatEquivNat.symm) := by
+    rw [Equiv.pnatEquivNat_symm_apply]
+    exact (summable_nat_add_iff 1).2 h
+  exact (Equiv.pnatEquivNat.symm.summable_iff).1 this
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]: This can be golfed:
```suggestion
private lemma natplus_summable_of_nat_summable {a : ℕ → ℝ} (h : Summable a) :
    Summable (fun (n : ℕ+) => a n) := (Equiv.pnatEquivNat.symm.summable_iff).mp <| by
  rw [Equiv.pnatEquivNat_symm_apply]
  exact (summable_nat_add_iff 1).2 h
```
I don't know if we need a separate lemma for this. It is too specific for mathlib, but I guess it can't hurt to keep it so we have it in a convenient form to use

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 2]
```diff
@@ -344,6 +344,72 @@ private lemma step_11 :
...
+
+private lemma step_12a {r : ℝ} (cpos : r > 0)
+    : Multipliable fun (b : ℕ+) ↦ (1 - rexp (-r * ↑↑b)) ^ 24 := by
+-- Convert goal of Multipliablity to question of Summablility
+  conv_lhs =>
+    intro b
+    rw [← add_sub_cancel 1 ((1 - rexp (-r * ↑↑b)) ^ 24)]
+  apply Real.multipliable_one_add_of_summable _
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]:
```suggestion
  apply Real.multipliable_one_add_of_summable
```

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 3]
```diff
@@ -344,6 +344,72 @@ private lemma step_11 :
...
+
+-- Establish geometric lower bound for the target series
+  have h_lower_bound : ∀ x > 0 , - 24 * rexp (-r * x) ≤ (1 - rexp (-r * x)) ^ 24 - 1 := by
+    intro x hx
+    apply le_of_add_le_add_left (a := 1)
+    rw [neg_mul_comm, sub_eq_add_neg, add_comm _ (-1), ← add_assoc 1 (-1),
+        add_neg_cancel, zero_add]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]:
```suggestion
    rw [neg_mul_comm, sub_eq_add_neg, add_comm _ (-1), ← add_assoc 1 (-1), add_neg_cancel, zero_add]
```

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 4]
```diff
@@ -344,6 +344,72 @@ private lemma step_11 :
...
+    apply one_add_mul_le_pow _ 24
+    apply le_neg.mp
+    rw [neg_neg]
+    trans 1
+    apply exp_le_one_iff.mpr
+    apply mul_nonpos_of_nonpos_of_nonneg
+    · exact neg_nonpos_of_nonneg (le_of_lt cpos)
+    · exact Std.le_of_lt hx
+    · norm_num
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]:
```suggestion
    rw [exp_le_one_iff]
    apply mul_nonpos_of_nonpos_of_nonneg (neg_nonpos_of_nonneg (le_of_lt cpos)) (Std.le_of_lt hx)
    norm_num
```

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 5]
```diff
@@ -344,6 +344,72 @@ private lemma step_11 :
...
+
+-- Establish geometric lower bound for the target series
+  have h_lower_bound : ∀ x > 0 , - 24 * rexp (-r * x) ≤ (1 - rexp (-r * x)) ^ 24 - 1 := by
+    intro x hx
+    apply le_of_add_le_add_left (a := 1)
+    rw [neg_mul_comm, sub_eq_add_neg, add_comm _ (-1), ← add_assoc 1 (-1),
+        add_neg_cancel, zero_add]
+    apply one_add_mul_le_pow _ 24
+    apply le_neg.mp
+    rw [neg_neg]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]:
```suggestion
    rw [le_neg, neg_neg]
```

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 6]
```diff
@@ -344,6 +344,72 @@ private lemma step_11 :
...
+    intro x hx
+    apply sub_nonpos_of_le
+    apply pow_le_one₀ (n := 24)
+    · rw [sub_nonneg]
+      apply Real.exp_le_one_iff.mpr
+      apply mul_nonpos_of_nonpos_of_nonneg
+      · exact neg_nonpos_of_nonneg (le_of_lt cpos)
+      · exact hx
+    · apply sub_le_comm.mpr
+      rw [sub_self]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]:
```suggestion
    · rw [sub_nonneg, Real.exp_le_one_iff]
      exact mul_nonpos_of_nonpos_of_nonneg (neg_nonpos_of_nonneg (le_of_lt cpos)) hx
    · rw [sub_le_comm, sub_self]
```

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 7]
```diff
@@ -344,6 +344,72 @@ private lemma step_11 :
...
+      exact exp_nonneg (-r * x)
+-- Combine to show norm of target series is bounded by geometric series
+  have h_bounded : ∀ i : ℕ+, ‖(1 - rexp (-r * i)) ^ 24 - 1‖ ≤ 24 * rexp (-r * i) := by
+    intro i
+    refine abs_sub_le_iff.mpr ?_
+    constructor
+    · trans 0
+      apply h_upper_bound i (Nat.cast_nonneg i)
+      apply mul_nonneg (by norm_num) _
+      apply le_of_lt (exp_pos _)
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]:
```suggestion
      apply (h_upper_bound i (Nat.cast_nonneg i))
      exact mul_nonneg (by norm_num) (le_of_lt (exp_pos _))
```

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 8]
```diff
@@ -344,6 +344,72 @@ private lemma step_11 :
...
+-- Show that the bound is itself summable
+  have h_bound_summable : Summable fun (i : ℕ) ↦ 24 * rexp (-r * i) := by
+    apply (summable_mul_left_iff (a := 24) (by norm_num)).mpr
+    conv_lhs =>
+      intro i
+      rw [mul_comm]
+    apply Real.summable_exp_nat_mul_iff.mpr
+    exact neg_neg_of_pos cpos
+-- Series bounded in norm by a summable series is itself summable
+  apply Summable.of_norm_bounded (natplus_summable_of_nat_summable h_bound_summable) h_bounded
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]:
```suggestion
  exact Summable.of_norm_bounded (natplus_summable_of_nat_summable h_bound_summable) h_bounded
```

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 9]
```diff
@@ -344,6 +344,72 @@ private lemma step_11 :
...
+    constructor
+    · trans 0
+      apply h_upper_bound i (Nat.cast_nonneg i)
+      apply mul_nonneg (by norm_num) _
+      apply le_of_lt (exp_pos _)
+    · apply le_of_neg_le_neg
+      simp_all only [neg_mul, neg_sub, Nat.cast_pos, PNat.pos]
+-- Show that the bound is itself summable
+  have h_bound_summable : Summable fun (i : ℕ) ↦ 24 * rexp (-r * i) := by
+    apply (summable_mul_left_iff (a := 24) (by norm_num)).mpr
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]:
```suggestion
    rw [(summable_mul_left_iff (a := 24) (by norm_num))]
```

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 10]
```diff
@@ -374,8 +440,17 @@ private lemma step_12 :
...
+    · exact step_12a pi_pos
+    · have : 0 < 2 * π * z.im := by
+        apply mul_pos
+        exact two_pi_pos
+        exact UpperHalfPlane.im_pos z
+      conv =>
+        enter [1]
+        intro b
+        rw [mul_assoc, mul_comm _ z.im, ←mul_assoc]
+        rw [neg_mul, neg_mul]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean]:
```suggestion
        rw [mul_assoc, mul_comm _ z.im, ←mul_assoc, neg_mul, neg_mul]
```

File: SpherePacking/MagicFunction/PolyFourierCoeffBound.lean [hunk 11]
```diff
@@ -344,6 +344,58 @@ private lemma step_11 :
     simp only [neg_mul]
     gcongr
 
+-- Summability on N implies summability on N+
+private lemma natplus_summable_of_nat_summable {a : ℕ → ℝ} (h : Summable a)
+  : Summable (fun (n : ℕ+) => a n) := by
+  rw [← Equiv.pnatEquivNat.symm.summable_iff, Equiv.pnatEquivNat_symm_apply]
+  exact (summable_nat_add_iff 1).mpr h
+
+private lemma step_12a {r : ℝ} (cpos : r > 0)
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/PolyFourierCoeffBound.lean:353]: Just out of curiosity, this seems very similar to [this](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/blob/4b1cd5aae0d4b8e0847de6600b9c4f256bceebfe/SpherePacking/ModularForms/Delta.lean#L563-L575) proved in PR #182. Maybe one of them is unnecessary, and it might be possible to move both into somewhere else and use it. Maybe even multipliability of $$\prod_n (1 - e^{-rn})^k$$ for general $r, k > 0$ can be useful for other contexts. (But I think doing this in other PR might be better if necessary)

Comment (thefundamentaltheor3m) [reply SpherePacking/MagicFunction/PolyFourierCoeffBound.lean:353]: Nice catch! It would be good if we could combine these somehow, but I also agree that this doesn't need to be done in this PR. @mattcushman I'll let you decide. Other than that this PR looks good to merge

Comment (mattcushman) [reply SpherePacking/MagicFunction/PolyFourierCoeffBound.lean:353]: I'll take a look
